US05753657
To a solution of 0.45 g of 5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one in 20 ml of dimethyl sulphoxide under nitrogen are added, at a temperature in the region of 20° C. and with stirring, 60 mg of sodium hydride. The stirring is continued for 2 hours and a further 66 mg of sodium hydride are then added. The reaction medium is heated to 45° C. for 30 minutes, cooled to 20° C. and 0.25 ml of benzyl bromide are added. After continuing the stirring for 3 hours, the reaction mixture is poured into 150 ml of water, acidified to pH 4 with acetic acid and extracted with three times 60 ml of chloroform. The organic phases are combined, washed with twice 100 ml of water, dried over magnesium sulphate, filtered and concentrated on a rotary evaporator. The black solid obtained (0.78 g) is purified by chromatography on a column of silica (70 g) with a mixture of dichloromethane and methanol (95/5 by volume) to give 0.1 g of 10,10-dibenzyl-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one in the form of a pale green solid melting above 260° C. [N.M.R. spectrum: (200 MHz; DMSO d6 ; δ in ppm): 3.63 and 3.85 (2d, J=14 Hz, 2H each: --CH2 --Ar); 6.36 (d, J=7 Hz, 4H: ortho-H of the benzyls); from 6.75 to 6.95 (mt, 6H: meta-H and para-H of the benzyls); from 7.29 to 7.45 (2t, J=7.5 Hz, 1H each: --H7 and --H8); 7.82 and 8.80 (2s broad, 1H each: --H of the imidazole); 7.38 and 8.02 (2d, J=7.5 Hz, 1H each: --H6 and --H9); 11.9 (cplx, 1H: --NH--)].

reactant | 5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.45 g | C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C13H9N3O
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | sodium hydride | 66 mg | [H-].[Na+]
reactant | benzyl bromide | 0.25 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 150 ml | O | H2O
solvent | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 10,10-dibenzyl-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.1 g | C(C1=CC=CC=C1)C1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CC3=CC=CC=C3 | C27H21N3O
